US04565769
(C) Preparation of 1-[4-(dimethylamino)phenyl]-1-[4-(2-hydroxyethoxy)phenyl]-methanone
A solution of 12.0 g of 1-[4-(dimethylamino)phenyl]-1-[4-hydroxyphenyl)-methanone and 2.2 g sodium hydroxide in 120 ml dimethylformamide was heated at 90° C. until all the sodium hydroxide had dissolved. 6.9 g 2-bromoethanol was added and the reaction heated at about 105° C. for 24 hours. The reaction mixture was poured into water and the product isolated by extraction with methylene chloride to yield 7.7 g, m.p. 142°-143° C., λmax (chloroform) 348 nm (ε=26,400), 271 nm (ε=12,500), 255 nm (ε=11,900 nm).

reactant | 1-[4-(dimethylamino)phenyl]-1-[4-hydroxyphenyl)-methanone | 12.0 g | CN(C1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)O)C | C15H15NO2
reactant | sodium hydroxide | 2.2 g | [OH-].[Na+]
reactant | 2-bromoethanol | 6.9 g | BrCCO | C2H5BrO
reactant | water | O | H2O
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[4-(dimethylamino)phenyl]-1-[4-(2-hydroxyethoxy)phenyl]-methanone | CN(C1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OCCO)C | C17H19NO3
